*
.SUBCKT PSS8550C 1 2 3
* 
* housing parasitics
LBlead 2 22 9E-010 
LE 3 333 2.3E-009 
LC 1 11 1.7E-012 
LBbond 22 222 9E-010 
CBCG 222 11 3.53E-013 
CBEG 222 333 1.81E-013 
CCEG 11 333 2.37E-013
*
* The diode does not reflect a 
* physical device but improves 
* only modeling in the reverse
* mode of operation.
* 
Q1 11 222 333 PSS8550C 
D1 11 222 DIODE
*
.MODEL PSS8550C PNP 
+ IS = 8.677E-014 
+ NF = 0.9925 
+ ISE = 1.397E-014 
+ NE = 1.304 
+ BF = 159 
+ IKF = 1.4 
+ VAF = 74 
+ NR = 0.9886 
+ ISC = 3.235E-013 
+ NC = 1.412 
+ BR = 20 
+ IKR = 0.65 
+ VAR = 63 
+ RB = 7 
+ IRB = 0.0008 
+ RBM = 1.25 
+ RE = 0.045 
+ RC = 0.15 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.21E-010 
+ VJE = 0.753 
+ MJE = 0.3708 
+ TF = 8E-010 
+ XTF = 12 
+ VTF = 6 
+ ITF = 2.5 
+ PTF = 0 
+ CJC = 3.379E-011 
+ VJC = 0.4902 
+ MJC = 0.3975 
+ XCJC = 1 
+ TR = 1.9E-008 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.78 
.MODEL DIODE D 
+ IS = 7E-015 
+ N = 1 
+ BV = 1000 
+ IBV = 0.001 
+ RS = 900 
+ CJO = 0 
+ VJ = 1 
+ M = 0.5 
+ FC = 0 
+ TT = 0 
+ EG = 1.11 
+ XTI = 3 
.ENDS
