*
.SUBCKT PZTM1102 1 2 3 4
*QTr  PNP      2=B 3=E 4=C
*SBD1 Schottky 4=A 1=C
*SBD2 Schottky 4=C 1=A
*
Q1 4 2 3 QTr
D1 4 1 SBD1
D2 1 4 SBD2
*
.MODEL QTr PNP( 
+     IS=9.273E-15
+     NF=1.012
+     ISE=1.01E-13
+     NE=1.6
+     BF=153.6  
+     IKF=0.09
+     VAF=30.8
+     NR=0.9988
+     ISC=1.117E-12
+     NC=1.43  
+     BR=6.25
+     IKR=0.09
+     VAR=10.97
+     RB=1
+     IRB=1E-06
+     RBM=1  
+     RE=0.1244
+     RC=1.375
+     XTB=0
+     EG=1.11
+     XTI=3
+     CJE=7.897E-12  
+     VJE=0.69
+     MJE=0.3628
+     TF=5.9E-10
+     XTF=2.5
+     VTF=3.8  
+     ITF=0.07
+     PTF=0
+     CJC=6.755E-12
+     VJC=0.37
+     MJC=0.2096 
+     XCJC=0.864
+     TR=4.7E-8
+     CJS=0
+     VJS=0.75
+     MJS=0.333
+     FC=0.5 )
*
.MODEL SBD1 D(
+     IS=4.752E-6
+     N=1
+     BV=35
+     IBV=2E-5
+     RS=1.165
+     CJO=3.285E-10
+     VJ=0.225
+     M=0.5376
+     FC=0.5
+     TT=0
+     EG=0.69
+     XTI=2)
*
.MODEL SBD2 D(
+     N=1
+     IS=6.178E-5
+     RS=1.077E6
+     EG=0.69
+     XTI=2)
.ENDS                              *
