*
.SUBCKT 1N4735A 1 2 
*
* The Resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 3E+9 
D1 1 2 1N4735A
*
.MODEL 1N4735A D 
+ IS = 1.803E-14 
+ N = 1.167 
+ BV = 6.2 
+ IBV = 0.041 
+ RS = 0.3264 
+ CJO = 6.85E-11 
+ VJ = 0.6947 
+ M = 0.3439 
+ FC = 0.5 
.ENDS
