*
.SUBCKT BAS21 1 2 3 
*
* The Resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 3 1.622E+10 
D1 1 3 BAS21 
*
.MODEL BAS21 D 
+ IS = 3.648E-9 
+ N = 1.909 
+ BV = 260 
+ IBV = 2E-7 
+ RS = 0.7535 
+ CJO = 6.99E-13 
+ VJ = 0.2028 
+ M = 0.1151 
+ FC = 0.5 
+ TT = 3.462E-8 
.ENDS
