*
.SUBCKT BAS521 1 2
*
* The Resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 1.2E+10
D1 1 2 BAS521
*
.MODEL BAS521 D
+ IS = 7.219E-9
+ N = 2
+ BV = 310
+ IBV = 0.0001
+ RS = 0.63
+ CJO = 4.074E-13
+ VJ = 0.6538
+ M = 0.05409
+ FC = 0.5
+ TT = 2.1987E-8
+ EG = 0.69
+ XTI = 2
.ENDS
*
