*
.SUBCKT BAS21VD 1 2 3 4 5 6
*
* The Resistors R1-R3 do not
* reflect physical devices.
* Instead they improve modeling
* in the reverse mode of
* operation.
*
R1 6 1 1.622E+10
D1 6 1 BAS21VD
R2 5 2 1.622E+10
D2 5 2 BAS21VD
R3 4 3 1.622E+10
D3 4 3 BAS21VD
*
.MODEL BAS21VD D
+ IS = 3.648E-9
+ N = 1.909
+ BV = 260
+ IBV = 2E-7
+ RS = 0.7535
+ CJO = 5.01E-13
+ VJ = 0.4515
+ M = 0.0571
+ FC = 0.5
+ TT = 2.054E-8
.ENDS
*
