*
.SUBCKT BAV23S 1 2 3 
*
* The resistor does not reflect a
* physical devices.  Instead it improves
* modeling in the reverse mode of
* operation.
*
R1 1 2 1.622E+10 
D1 1 2 BAV23S
R1 3 2 1.622E+10 
D1 3 2 BAV23S
*
.MODEL BAV23S D 
+ IS = 3.648E-9 
+ N = 1.909 
+ BV = 260 
+ IBV = 2E-7 
+ RS = 0.7535 
+ CJO = 7.501E-13 
+ VJ = 0.1995 
+ M = 0.115 
+ FC = 0.5 
+ TT = 3.462E-8 
.ENDS
