.SUBCKT BAW101 1 2 3 4
*
* The Resistors do not reflect
* physical devices.  Instead they 
* improve modeling in the reverse
* mode of operation.
*
R1 4 1 1.2E+10 
D1 4 1 BAW101
R2 3 2 1.2E+10 
D2 3 2 BAW101
*
.MODEL BAW101 D 
+ IS = 7.219E-9 
+ N = 2 
+ BV = 310 
+ IBV = 0.0001 
+ RS = 0.63 
+ CJO = 4.584E-13 
+ VJ = 0.7483 
+ M = 0.06257 
+ FC = 0.5
+ TT = 2.1987E-8
.ENDS
