*
.SUBCKT BAW62 1 2
*
* The Resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 1.15E+10
D1 1 2 BAW62
*
.MODEL BAW62 D
+ IS = 3.126E-9
+ N = 1.925
+ BV = 85
+ IBV = 0.0005
+ RS = 0.8109
+ CJO = 7.27E-13
+ VJ = 0.7226
+ M = 0.01318
+ FC = 0.5
+ TT = 4.04E-9
.ENDS
*
