*
.SUBCKT BAW56W 1 2 3
*
* The Resistors do not reflect
* physical devices.  Instead they 
* improve modeling in the reverse
* mode of operation.
*
R1 3 1 2.3E+9
D1 3 1 BAW56W
R2 3 2 2.3E+9
D2 3 2 BAW56W
*
.MODEL BAW56W D
+ IS = 1.705E-9
+ N = 1.71
+ BV = 87
+ IBV = 0.0003
+ RS = 1.022
+ CJO = 1.798E-12
+ VJ = 1.032
+ M = 0.2987
+ FC = 0.5
+ TT = 3.606E-9 
+ EG = 1.1
+ XTI = 3
.ENDS
*
