.SUBCKT BZA862AVL 1 2 3 4 5
*
D1 2 1 BZA862AVL
D2 2 3 BZA862AVL
D3 2 4 BZA862AVL
D4 2 5 BZA862AVL
*
.MODEL BZA862AVL D
+ IS = 3.644E-17 
+ N = 0.9717 
+ BV = 6.2 
+ IBV = 0.001 
+ RS = 0.5003 
+ CJO = 1.815E-11 
+ VJ = 0.7121 
+ M = 0.3251 
+ FC = 0.5 
.ENDS
