.SUBCKT BZA962AVL 1 2 3 4 5
*
D1 2 1 BZA962AVL
D2 2 3 BZA962AVL
D3 2 4 BZA962AVL
D4 2 5 BZA962AVL
*
.MODEL BZA962AVL D
+ IS = 3.644E-17 
+ N = 0.9717 
+ BV = 6.2 
+ IBV = 0.001 
+ RS = 0.5003 
+ CJO = 1.815E-11 
+ VJ = 0.7121 
+ M = 0.3251 
+ FC = 0.5 
.ENDS
