*
.SUBCKT PESD5V0L7BS 1 2 3 4 5 6 7 8
*
D1 11 1 PESD5V0L7BS
D2 11 2 PESD5V0L7BS
D3 11 3 PESD5V0L7BS
D4 11 4 PESD5V0L7BS
D5 11 5 PESD5V0L7BS
D6 11 6 PESD5V0L7BS
D7 11 7 PESD5V0L7BS
D8 11 8 PESD5V0L7BS
*
*
.MODEL PESD5V0L7BS D
+ IS = 3.644E-17
+ N = 0.9717
+ BV = 6.8
+ IBV = 0.001
+ RS = 0.5003
+ CJO = 1.641E-11
+ VJ = 0.8979
+ M = 0.33
+ FC = 0.5
.ENDS
*
