* 
.SUBCKT PESD5V0L2BT 1 2 3
*
D1 11 1 PESD5V0L2BT
D2 11 3 PESD5V0L2BT
D3 12 2 PESD5V0L2BT
D4 12 3 PESD5V0L2BT
*
.MODEL PESD5V0L2BT D
+ IS = 7.035E-16
+ N = 0.9809
+ BV = 6.8
+ IBV = 0.005
+ RS = 0.3487
+ CJO = 1.519E-10
+ VJ = 0.9041
+ M = 0.4027
+ FC = 0.5
.ENDS
*
