.SUBCKT PESD3V3L4UG 1 2 3 4 5
*
D1 2 1 PESD3V3L4UG
D2 2 3 PESD3V3L4UG
D3 2 4 PESD3V3L4UG
D4 2 5 PESD3V3L4UG
*
.MODEL PESD3V3L4UG D
+ IS = 3.644E-17
+ N = 0.9717
+ BV = 5.6
+ IBV = 0.001
+ RS = 0.5003
+ CJO = 2.136E-11
+ VJ = 0.7025
+ M = 0.3242
+ FC = 0.5
.ENDS
